US07842685B2
A solution of tert-butyl 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)cyclopropyl(methyl)carbamate (0.03 g, 0.058 mmol) in chloroform (0.5 mL) was added trifluoroacetic acid (0.5 mL, 6.5 mmol) and stirred at room temperature for 2 h. The reaction mixture was concentrated in vacuo, and the resulting crude product was purified via reverse phase preparative HPLC to afford ′1-(3-fluoro-4-(5-(1-phenyl-cyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)-N-methylcyclopropanamine as a white amorphous solid. MS (ESI) m/z: Calculated: 415.5; Observed: 416.1 (M++1).

reactant | tert-butyl 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)cyclopropyl(methyl)carbamate | 0.058 mmol, 0.03 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C1(CC1)N(C(OC(C)(C)C)=O)C | C30H30FN3O2S
reactant | trifluoroacetic acid | 6.5 mmol, 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-fluoro-4-(5-(1-phenyl-cyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)-N-methylcyclopropanamine | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C1(CC1)NC | C25H22FN3S
